US06355636B1
4-Bromobut-2-enoyl chloride was generated by the reaction of 4-bromobut-2-enoic acid, trimethylsilyl ester (0.63 mL) with oxalyl chloride (0.33 mL) in methylene chloride (6 mL) with one drop of N,N-dimethyl formamide for one hour. The reaction was stripped of solvent and redissolved in 8 mL of anhydrous tetrahydrofuran. An aliquot of 4 mL of this reagent was added to a solution of 500 mg of 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile in 15 mL of tetrahydrofuran containing 315 uL of Hunig's base at 0° C. After 2 hours, an additional 2 mL of acid chloride/tetrahydrofuran was added. After an additional hour, saturated aqueous sodium bicarbonate and chloroform was added and the chloroform phase dried and stripped to give a crude product that was purified by flash chromatography with a gradient of ethyl acetate/chloroform, then methanol/chloroform to give 360 mg of a one-to-one mixture of 4-bromo-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide, and 4-chloro-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide. This material was dissolved in 10 mL of tetrahydrofuran containing 1 mL of N,N-dimethyl formamide and reacted with 200 mg of NaBr for three days. An aliquot of 2 mL of 1 M dimethyl amine in tetrahydrofuran was then added at 0° C. The reaction was diluted with saturated aqueous sodium bicarbonate, ice, and chloroform. The organic phase was dried with sodium sulfate, evaporated, and purified by flash chromatography with a gradient of 5-10% methanol/chloroform to give 190 mg of 4-dimethylamino-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide as an amorphous yellow solid: melting point 180-185° C. (decomposed); mass spectrum (mri/e): M+H 450.9, 452.9.

reactant | 4-Bromobut-2-enoyl chloride | BrCC=CC(=O)Cl | C4H4BrClO
reactant | 4-bromobut-2-enoic acid, trimethylsilyl ester | 0.63 mL | BrCC=CC(=O)O[Si](C)(C)C | C7H13BrO2Si
reactant | oxalyl chloride | 0.33 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 500 mg | NC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NC(C=CCBr)=O)C#N | C19H13Br2N5O
reactant | 4-chloro-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NC(C=CCCl)=O)C#N | C19H13BrClN5O
reactant | NaBr | 200 mg | [Na+].[Br-]
reactant | dimethyl amine | 1 M, 2 mL | CNC | C2H7N
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl formamide | one drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-dimethylamino-but-2-enoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide | 190 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NC(C=CCN(C)C)=O)C#N | C21H19BrN6O
